US08044068B2
A mixture of (S)-1-(3-(4-dimethylaminothieno[3,2-d]pyrimidin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.10 g), Lawesson's reagent (0.087 g), and toluene (10 mL) was heated at 110° C. for 5 h with stirring. After left stand for cooling, the reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform/methanol=50:1) to obtain light yellow solid (S)-1-(3-(4-dimethylaminothieno[3,2-d]pyrimidin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanethione (0.027 g).

reactant | (S)-1-(3-(4-dimethylaminothieno[3,2-d]pyrimidin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 0.10 g | CN(C=1C2=C(N=C(N1)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O)C=CS2)C | C21H22F3N5O2S
reactant | Lawesson's reagent | 0.087 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-1-(3-(4-dimethylaminothieno[3,2-d]pyrimidin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanethione | 0.027 g | CN(C=1C2=C(N=C(N1)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=S)C=CS2)C | C21H22F3N5OS2
